* Transistors
M1 2 3 4 4 NMOS
M2 2 3 5 5 NMOS
M1A 7 5 6 6 NMOS
M2A 7 4 6 6 NMOS
* Current Sources
? Missing component
IBIAS1 7 4 DC
IBIAS2 7 4 DC
* Capacitor
CL 6 0
* Voltage Sources
VDD 10 0 DC
VSS 0 8 DC
* Input
VI 3 0
* Common Current Mirror
* Assume necessary connections within the block.
.END
