spice
* NMOS transistor definition
M1 2 1 3 3 NMOS
* Current source definition
? Missing component
* Capacitor C1 definition
C1 2 4 1u
* Capacitor C2 definition
C2 3 5 1u
* Voltage source
V1 1 0 DC +2V
* Model for NMOS
.model NMOS NMOS (LEVEL=1)
* End of file
