spice
* Netlist for the given circuit
VDD 2 0 DC 5V
Vin 5 0 DC 1V
? Missing component
RD 2 1 1k
C1 5 3 10uF
M1 1 44 3 3 NMOS
* M1: Drain (1), Gate (44), Source (3), Body (3)
* RD: Connected between VDD and Drain of M1
* C1: Connected between Vin and Gate of M1
* I1: Current source connected to source of M1
.end
