* Transistor M1
M1 5 Vin 5 5 NMOS
* Transistor M2
M2 Vout Vb 5 5 NMOS
* Transistor M4
M4 6 Vb2 4 4 PMOS
* Transistor M5
M5 4 Vb3 VDD VDD PMOS
* Current Source I1
? Missing component
