spice
* SPICE netlist for the given schematic
Vdd 1 0 DC VDD
Vin1 3 0 DC 0
? Missing component
Rd1 1 5 RD1
Rd2 2 1 RD2
M1 5 3 7 7 NMOS
M2 2 4 7 7 NMOS
* Define model parameters for NMOS if not provided
.model NMOS NMOS (LEVEL=1)
* End of netlist
