spice
* SPICE netlist for the given schematic
* NMOS transistors
M1 2 4 1 1 NMOS
M3 4 2 3 3 NMOS
M5 3 1 9 9 NMOS
* PMOS transistors
M2 4 6 8 8 PMOS
M4 4 5 3 3 PMOS
M6 3 2 9 9 PMOS
* Resistors
RD1 7 4  RD
RD2 4 4  RD
* Current Source
? Missing component
* Voltage definitions
VDD 7 0 DC
Vcont 4 0 DC
Vin 2 0 AC
.END
