plaintext
* SPICE Netlist for the given schematic
VCC 12 0 DC VCC
? Missing component
IC43 0 2 DC 18uA
IC03 0 9 DC 33uA
IC65 0 4 DC 6uA
R43 12 5 1.3k
R65 3 10 7.5k
R23 7 25 2.5k
R56 5 9 1.3k
R67 8 26 2.5k
Q17 3 5 4 QPMOS
Q23 8 7 0 QNMOS
Q24 6 9 0 QNMOS
Q05 5 9 0 QNMOS
Q06 6 10 0 QNMOS
.MODEL QPMOS PMOS (LEVEL=1)
.MODEL QNMOS NMOS (LEVEL=1)
.END
