spice
* Components
* NMOS: M1, M2
* Current Sources: I1, I2
* Resistor: RS
* Voltage Sources
VDD 3 0 DC <value>
* Resistor
RS 2 1 <value>
* NMOS Transistors
M1 3 3 0 0 NMOS
M2 3 2 0 0 NMOS
* Current Sources
? Missing component
I2 2 0 DC <value>
* Connections
Vin 1 0 DC <value>
* Model Definitions
.model NMOS nmos (parameters)
