spice
* SPICE Netlist for given schematic
Vin 3 0 DC 0
R1 3 4 1k
? Missing component
* Define diode model if needed
.model D D
XAMP 0 4 5 OPAMP
* Define op-amp model if needed
.subckt OPAMP non_inv inv out
* Model implementation
.ends OPAMP
