spice
* Netlist for the given circuit
.IBIAS 1 2 DC 0.68mA
.I1 2 5 DC 0.22mA
.I2 5 8 DC 0.17mA
Q13A 8 2 2 NPN
Q13A' 5 2 2 NPN
Q14 8 5 3 NPN
Q17 2 4 6 NPN
Q20 3 2 7 PNP
Q23 2 6 7 NPN
? Missing component
D19 5 2 D
RL 3 4 1k
VCC 8 4 DC 15V
VEE 4 6 DC -15V
VIN 4 6 DC 0V
.model NPN NPN
.model PNP PNP
.model D D
.END
