* Transistors
Q1 4 3 5 NPN
Q2 5 2 3 NPN
* Diodes
D1 3 4 DMODEL
? Missing component
* Resistor
RL 5 0 1k
* Voltage Sources
VCC 4 0 10V
VEE 2 0 -10V
Vin 3 0 DC 0V AC 1V
.model NPN NPN
.model DMODEL D
