* Transistors
Q1 6 3 7 QNPN
Q2 5 22 2 QNPN
* Diodes
? Missing component
D2 3 5 D
* Current Sources
I1 7 1 DC <value_I1>
I2 22 2 DC <value_I2>
* Resistor
RL 2 4 <value_RL>
* Voltage Sources
VCC 7 0 DC <value_VCC>
VEE 22 0 DC <value_VEE>
* Note: Replace <value_x> with actual component values
