plaintext
* Components
M1 2 8 0 0 NMOS
M2 2 7 0 0 NMOS
C1_left 6 1 C1
C1_right 3 1 C1
? Missing component
L1_right 3 4 L1
Rp_left 4 5 Rp
Rp_right 4 5 Rp
Vin 8 0 DC 0V
VDD 5 0 DC VDD_VALUE
* Nodes
* 0 - Ground
* 1 - Common for capacitors
* 2 - Output of the first stage
* 3 - Common point for inductors and resistors on the right side
* 4 - Common for inductors
* 5 - VDD node
* 6 - Connection for left-side L1 and C1
* 7 - Vout from the second stage
* 8 - Input node for Vin
.end
