spice
*Netlist for the given differential amplifier circuit
VCC 2 0 DC 10V
Vin 1 0 DC 1V
Vb 3 0 DC 2.5V
* Resistors
RC1 2 5 10k
RC2 2 4 10k
* NMOS Transistors (Model specified separately if needed)
? Missing component
M2 4 8 3 3 NMOS
.model NMOS NMOS(Level=1 Vto=1 KP=0.5u)
.END
