* NMOS Transistor
? Missing component
* Resistor
R_D 5 4 5k
* Voltage Sources
V_DD 5 0 DC 1.8V
V_GS 3 0 DC
* Nodes
* 2: Source/Body
* 3: Gate
* 5: Drain
* 4: Connection to R_D and I_D
