spice
* Example SPICE Netlist
V1 VDD 0 DC 1.8V
? Missing component
R1 N001 0 RS
.model NMOS NMOS (LEVEL=1)
* Node connections:
* N001 - Source of M1 and one side of R1
* VDD  - Drain of M1
* GND  - Gate of M1 and other side of R1 (ground)
.END
