* Components
* Vx is the voltage source
* Ix is the current source
* M1 is the NMOS transistor
* Connections
* M1: Drain (2), Gate (3), Source (4)
* Vx: Positive (3), Negative (4)
* Ix: Positive (2), Negative (4)
* Netlist
Vx 3 4 DC Vx
Ix 2 4 DC Ix
? Missing component
Vdd 2 0 DC 1.8
