* Components
? Missing component
M2 N3 0 N3 N3 NMOS
RD N3 N2 Resistor
* Voltage Sources
VDD N2 0 DC 5V
Vin Vin 0 DC 1V
* Simulation Commands
.tran 1n 10n
.end
