* NMOS and PMOS Transistor Circuit
? Missing component
M2 Vout 3 VCC VCC PMOS  * Q2 PMOS: Drain (VCC), Gate (3), Source (Vout)
* Voltage source and termination for simulation
Vin Vin 0 DC 0
VCC VCC 0 DC Vdd  * Vdd for the PMOS
Vout Vout 0 DC 0
.END
