* SPICE Netlist for the given circuit
VDD 4 0 DC 10V
R1 4 8 1k
RD 4 3 1k
R2 7 6 1k
RS 2 5 1k
C1 7 8 1uF
? Missing component
* Define the ground node
0 GND
