spice
* NMOS Transistors: M1 and M2
M1 Vout Vin 4 4 NMOS_MODEL
M2 4 Vb 2 2 NMOS_MODEL
* PMOS Transistor: M3
? Missing component
* Netlist Description
Vdd 5 0 DC 5V
Vin Vin 0 DC 0V
Vb Vb 0 DC 0V
* Model Descriptions
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS
.end
