spice
*MOSFET Differential Amplifier
? Missing component
M2 4 1 2 2 NMOS
R1 2 0 Rs
VDD 4 0 DC VDD
Vin 1 0 DC Vin
Vb 3 0 DC Vb
*Specify model parameters for NMOS if necessary
*.model NMOS NMOS(...) 
.END
