spice
* SPICE netlist for the schematic
* Voltage Sources
VB1 1 0 DC VBB1
VB2 5 0 DC VBB2
* Current Sources
IX 3 0 DC IX_value
IY 2 0 DC IY_value
* NMOS Transistors
M1 3 1 0 0 NMOS_model
? Missing component
* Model Definitions
.model NMOS_model NMOS (Level=1)
* End of netlist
