spice
* SPICE Netlist
* PMOS Transistor
? Missing component
* Voltage Source V_B1
V_B1 4 5 DC VALUE
* Voltage Source Vx
Vx 2 3 DC VALUE
* Component & Model Definitions
.MODEL PMOS_MODEL PMOS
