plaintext
* SPICE netlist for the schematic
* Voltage Sources
Vdd VDD 0 DC 5V
Vb Vb 0 DC 1.8V
Vin Vin 0 DC 1.2V
* Transistors
? Missing component
M2 N1 Vb VDD VDD PMOS
M3 Vout N1 0 0 NMOS
* Nodes
* N1: Node connecting M1, M2, and M3 drain
.end
