spice
* NMOS and PMOS models
.model NMOS NMOS
.model PMOS PMOS
* Voltage sources
VDD VDD 0 DC 5
* Transistors
? Missing component
M1 4 Vb 0 0 NMOS
M3 4 4 0 0 NMOS
* Define nodes
.node Vin Vb Vout VDD 0
.end
