spice
* SPICE Netlist
? Missing component
M2 5 Vin 3 3 PMOS
M3 4 3 0 0 PMOS
* Voltage source
VDD 5 0 DC Vdd
* Analysis commands
*.dc VDD 0 5 0.1
*.tran 1n 100n
.end
