plaintext
* Transistor Definitions
M1 Vout Vin 2 2 NMOS
? Missing component
M3 2 4 4 4 NMOS
* Voltage Sources
Vin Vin 0 DC <input_voltage_value>
VDD 3 0 DC <supply_voltage_value>
* End of Netlist
.end
