* SPICE netlist for the given schematic
* NMOS transistors
M1 4 2 2 2 NMOS
M3 2 2 0 0 NMOS
* PMOS transistor
? Missing component
* Resistor
R_D 3 4 RD
* Voltage source
VDD 3 0 DC VDD
VIN 2 0 DC VIN
* Definitions
.model NMOS NMOS (level=1)
.model PMOS PMOS (level=1)
.end
