spice
* SPICE netlist for the given schematic
M1 5 1 3 3 NMOS
? Missing component
I1 3 6 DC 1mA
RD 5 5 1k
VDD 5 0 DC 5V
* Specify models for NMOS and PMOS here
.model NMOS nmos (LEVEL=1 TOX=1.5E-8)
.model PMOS pmos (LEVEL=1 TOX=1.5E-8)
.END
