spice
* Transistors
? Missing component
M2 2 3 5 5 PMOS
* Resistor
RD 2 5 1k
* Voltage Sources
VDD 5 0 DC 5V
Vin 1 0 DC 0V
Vb 3 0 DC 1.2V
* Analysis
.tran 1n 100n
.end
