spice
* NMOS Transistor M1 (Drain, Gate, Source)
M1 3 4 0 NMOS
* PMOS Transistor M2 (Drain, Gate, Source)
? Missing component
* Current Source I1
I1 3 0 DC 1mA
* Resistor RD
RD 3 0 1k
* Voltage Sources
Vin 4 0 DC 1V
Vb 4 0 DC 1V
VDD 2 0 DC 5V
* Model Definitions for MOSFETs
.model NMOS NMOS
.model PMOS PMOS
.end
