spice
* NMOS Common Source Amplifier
* NMOS Transistor
? Missing component
* Resistor
RS 4 0 500
* Voltage Source
VDD 2 0 DC 1.8
* Input Signal (Optional, assuming Vin)
VIN 3 0 DC 0
* Model (Specification needed for simulation)
.model NMOS NMOS(Level=1)
.end
