spice
* SPICE Netlist
* Voltage Sources
VDD 4 0 DC 1.8V
Vin Vin 0 DC 0V
* NMOS Transistor
? Missing component
* Resistors
R1 4 3 1k
R2 3 0 1k
RD 4 Vout 1k
RS 2 0 1k
* Capacitors
C1 Vin 3 1uF
* Model Definitions
.model NMOS nmos level=1
