plaintext
* NMOS Transistor Definitions
? Missing component
M2 2 0.8V 0 0 NMOS W=10u L=0.18u
* Voltage Source
VDD Vout 0 DC 1.8
V1 0.8V 0 DC 0.8
* DC Analysis
.OP
* End of Netlist
.END
