spice
* Netlist for the schematic
* Voltage Source
VDD VDD 0 DC 1.8V
* PMOS Transistor
M2 Vout VDD VDD VDD PMOS W=W2 L=0.18
* NMOS Transistor
? Missing component
* Models
.model PMOS PMOS
.model NMOS NMOS
.ends
