spice
* SPICE netlist for the given schematic.
VDD 5 0 DC 1.8
Vi 8 0 DC 0
* NMOS transistor M1
M1 6 8 2 2 NMOS
* PMOS transistor M2
? Missing component
* Model definitions
.model NMOS NMOS
.model PMOS PMOS
.end
