* SPICE Netlist
VCC 5 0 DC 12V
IREF 5 6 DC 1mA
? Missing component
M_Q1 2 2 4 4 NMOS
C_VX 2 3 1nF
* Connections
* 1: VCC
* 2: VX
* 3: Ground
* 4: Q1 Terminal
* 5: IREF source
* 6: IREF destination
.model PMOS PMOS (Level=1 VTO=-0.7)
.model NMOS NMOS (Level=1 VTO=0.7)
.end
