plaintext
* SPICE Netlist for the Current Mirror
VDD 5 0 DC VDD_VALUE
IREF 5 5 DC IREF_VALUE
* PMOS Transistors
MREF 5 X 5 5 PMOS_MODEL
? Missing component
* Connections
ICOPY 4 2 DC ICOPY_VALUE
* Models
.model PMOS_MODEL PMOS(L=1u W=10u)
.end
