plaintext
* PMOS Transistor
? Missing component
* NMOS Transistor
M1 Vout Vb 0 0 NMOS
* Voltage Sources
VDD VDD 0 DC <value_of_VDD>
Vin Vin 0 DC <value_of_Vin>
Vb Vb 0 DC <value_of_Vb>
* Model Definitions (to be defined or included elsewhere)
.model PMOS PMOS (parameters)
.model NMOS NMOS (parameters)
