* SPICE Netlist
* NMOS and PMOS transistors assumed
* Assume default model parameters
IREF 1 3 DC 1
RP 3 0 1k ; Example resistance value, modify as needed
MREF 3 3 0 0 NMOS
? Missing component
VDD 1 0 DC VDD
.END
