spice
* Components
M1 3 3 0 0 NMOS L=3u W=90u
? Missing component
M3 24 2 4 4 PMOS L=3u W=75u
M4 24 2 24 24 PMOS L=3u W=75u
* Current Source
IREF 5 3 DC
* Voltage Supply
VDD 4 0 DC
* Output Current
ICOPY 24 2 DC
* End of Netlist
