plaintext
* SPICE Netlist
VDD 3 0 DC 1.8
IREF 3 4 DC 1m
M1 3 1 2 2 NMOS
? Missing component
MREF 3 4 4 4 NMOS
* Model Definitions
.model NMOS NMOS
* End of Netlist
