* Netlist for the given schematic
VDD 5 0 DC 5V
IIN 2 5 DC Iin
R1 2 5 1k
M1 4 2 6 6 NMOS W=1u L=0.18u
? Missing component
* Connections:
* VDD connected to net 5
* IIN connected between nets 2 and 5
* Resistor R connects net 2 and 5
* M1 drain to net 2, gate to net 6, source and body to net 4
* M2 drain to net 3, gate to net 2, source and body to net 4
.END
