* SPICE netlist for the given schematic
VDD 3 0 DC <value_vdd>
Vin1 X 0 DC <value_vin1>
Vin2 Y 0 DC <value_vin2>
RD1 3 Vout <value_rd>
RD2 2 VDD <value_rd>
M1 Vout X 4 4 NMOS
? Missing component
Iss 4 0 DC <value_iss>
* NMOS and PMOS model parameters
.model NMOS nmos ( level=1 <other_parameters> )
.model PMOS pmos ( level=1 <other_parameters> )
* End of netlist
