plaintext
* MOSFET definitions
? Missing component
M2 4 2 7 7 PMOS
M3 2 6 7 7 PMOS
M4 2 7 4 4 PMOS
* Current sources
I_VDD 3 0 DC 1
I_SS1 8 5 DC 1
I_SS2 8 2 DC 1
* Voltage nodes
Vin1 6 0 DC 1
Vin2 7 0 DC 1
.end
