* Transistors
? Missing component
M2 2 1 2 2 PMOS
M3 3 2 3 3 PMOS
M4 3 3 3 3 PMOS
* Voltage Source
Vin1 1 0 DC <VIN_VALUE>  ; Replace <VIN_VALUE> with the desired voltage value
* End of Netlist
