spice
* Netlist for the given schematic
M7 2 4 3 3 NMOS
M5 2 2 3 3 NMOS
M3 2 2 Vout1 3 NMOS
? Missing component
* Nodes:
* 4 : VDD
* 2 : Common node between transistors
* 3 : Ground
.model NMOS nmos
.end
