spice
* SPICE Netlist
VDD 2 0 DC 5V
* NMOS Transistors
M1 1 3 0 0 NMOS_MODEL
M2 2 4 0 0 NMOS_MODEL
* PMOS Transistors
M3 5 3 2 2 PMOS_MODEL
? Missing component
* Resistors
R1 5 1 1k
R2 5 2 1k
RSS 0 2 1k
* Current Sources
I1 1 0 DC 1mA
I2 2 0 DC 1mA
* Voltage Inputs
Vin1 3 0 DC 0V
Vin2 4 0 DC 0V
.model NMOS_MODEL NMOS (LEVEL=1)
.model PMOS_MODEL PMOS (LEVEL=1)
.end
