* NMOS Transistors
? Missing component
M2 5 2 4 4 NMOS
M3 4 2 0 0 NMOS
* Resistors
RD 3 VDD 1000
RDelta 5 VDD 1000
* Voltage Sources
VDD VDD 0 DC 5
Vin1 2 0 DC 1
Vin2 2 0 DC 1
Vb1 4 0 DC 1.5
* Simulation Commands
.OP
.END
