* Transistors
M5 N1 N2 N8 N8 PMOS
M6 N8 N2 N8 N8 PMOS
M7 N2 N25 N2 N2 NMOS
M10 N8 N2 N8 N8 PMOS
M11 N8 N2 N8 N8 PMOS
? Missing component
M9 N2 N7 N2 N2 NMOS
M3 N8 N2 N8 N8 PMOS
M4 N7 N2 N7 N7 NMOS
M12 N25 N2 0 0 NMOS
* Current Source
IBIAS N25 0 DC 1mA
* Resistor
R N7 N6 10k
* BJTs
Q1 N4 N4 0 NPN
Q2 N6 N4 0 NPN
* Voltage Source
VDD N2 0 DC 5V
* Node List:
* N1 - Source of M5
* N2 - VDD, Gate of M7, M9, and Drain of M7, M9, M12
* N4 - Base of Q1, Q2
* N6 - Collector of Q2, one side of R
* N7 - Source/Drain of M4, M9
* N8 - Source of M6, Drain of M5, M10
* N25 - Drain of M12, IBIAS
