spice
* NMOS Transistors
? Missing component
M2 3 Vin2 1 1 NMOS_MODEL
* PMOS Transistors
M3 X 2 44 44 PMOS_MODEL
M4 Vout 3 44 44 PMOS_MODEL
* Current Source
Iss 1 0 DC 0.5mA
* Voltage Source
VDD 44 0 DC 1.8V
* Models (example)
.model NMOS_MODEL NMOS
.model PMOS_MODEL PMOS
.end
