plaintext
* SPICE Netlist
* NMOS transistor
? Missing component
* PMOS transistors
M2 3 5 3 3 PMOS_MODEL
M3 4 3 3 3 PMOS_MODEL
* Current source
I1 4 2 DC 1mA
* Voltage sources (Vb, Vin, and VDD are implied from context)
VDD 5 0 DC 5V
Vb 1 0 DC 1V
Vin 2 0 AC 1V
* Models (placeholder for actual model parameters)
.model NMOS_MODEL NMOS (level=1)
.model PMOS_MODEL PMOS (level=1)
.end
