plaintext
* SPICE Netlist
? Missing component
M2 55 2 3 NMOS
M3 44 2 4 NMOS
IIN 6 66 DC
RS1 0 3 RS1_value
RS2 3 7 RS2_value
* Control Statements
.tran 1n 10u
.end
