plaintext
* SPICE Netlist
VDD 3 0 DC 1.8
VIN Vin 0 DC 0
VB Vb 0 DC 0.7
RS Vin 2 1k
M1 2 Vb 4 4 NMOS
? Missing component
* Model statements
.model NMOS NMOS (level=1)
.model PMOS PMOS (level=1)
*.end
