spice
* Example NMOS circuit
VDD 2 0 DC 5V
? Missing component
M2 3 3 4 4 NMOS
RD1 2 3 1K
RD2 3 6 1K
RF1 6 4 1K
RF2 4 0 1K
Vin 5 0 DC 0V
* Assume NMOS model exists as NMOS
.model NMOS NMOS(Level=1 VTO=1.0 KP=100u)
.ends
