plaintext
* SPICE netlist for the given circuit
* Voltage Sources
VDD 6 0 DC
VIN 1 0 AC
* Resistors
RD1 22 2 1k
RD2 4 6 1k
R1 3 8 1k
R2 3 8 1k
* NMOS Transistors
? Missing component
M2 2 4 5 5 NMOS
* Analysis
.ac dec 10 1 1Meg
.end
