* PMOS Transistor
M2 VDD Vout 4 4 PMOS
* NMOS Transistor
? Missing component
* Current Sources
I1 VDD 3 DC 10mA
Iin 5 0 DC 5mA
* Voltage Source
VDD 2 0 DC 5V
