* Nodes: 1 = Vin, 2 = gate of M2/M1, 3 = output Vout, 4 = source of M1 (ground), 5 = VDD
M1 3 1 4 4 NMOS
? Missing component
I1 5 2 DC 1mA
I2 3 4 DC ISS
VIN 1 0 DC 0V
*.model statement for NMOS would be included in simulation
