* MOSFET Definitions
M1 N1 Vin N2 N2 NMOS
M2 N2 0 N3 N3 NMOS
M3 N4 N4 N1 N1 PMOS
? Missing component
M5 Vout N5 VDd VDd PMOS
* Current Sources
I1 N2 0 DC ISS
I2 N5 0 DC Iout
* Voltage Source
VDD VDD 0 DC VDD_value
* Node Definitions
* N1: Source of M3, Drain of M1
* N2: Source of M1
* N3: Drain of M2
* N4: Connected to VDD
* N5: Drain of M5
* Vin: Gate of M1
* Vout: Output node
