spice
* SPICE Netlist
VDD 3 0 DC 1.8V
* N-channel MOSFET
M1 5 1 4 4 NMOS
* P-channel MOSFET
? Missing component
* Resistors
RD1 3 2 2k
RD2 5 0 500
* Voltage source
Vin 1 0 DC 0V
* Simulation commands
.TRAN 1n 10u
.END
