spice
* NMOS transistor M1
? Missing component
* Resistor RD
RD VDD X 1k ; Add appropriate resistance value in ohms
* Capacitor CL
CL X 0 1p ; Add appropriate capacitance value in farads
* Voltage Source VDD
VDD VDD 0 DC 5V ; Add appropriate voltage value
* Control cards
.include 'nmos.model'
