spice
* NMOS Transistors
M1 X 7 2 2 NMOS
M2 Y 8 2 2 NMOS
? Missing component
* PMOS Transistors
M4 X 3 44 44 PMOS
M5 Y 3 44 44 PMOS
M6 Z 4 44 44 PMOS
* Voltage source
VDD 44 0 DC <VDD_value>
* Remember to define NMOS and PMOS models if not provided in your library:
.model NMOS NMOS
.model PMOS PMOS
* End of netlist
.end
