spice
* NMOS Differential Pair Circuit
VDD 5 0 DC VDD
RD1 5 4 RD
RD2 5 2 RD
M1 4 6 2 2 NMOS
? Missing component
ISS 2 0 DC ISS
* Models
.model NMOS NMOS
.end
