spice
* NMOS transistor
? Missing component
* Resistor
R1 VDD Vout RD
* Voltage sources
VDD VDD 0 DC
Vin Vin 0 DC
* Model definition (add appropriate model parameters)
.model NMOS NMOS (Level=1 Vto=0.7)
