* Transistor Definitions
? Missing component
M2 OUT 2 VDD VDD PMOS W=xx L=xx
* Voltage Sources
VIN VIN 0 DC <Voltage_Value>
VDD VDD 0 DC <Voltage_Value>
* Node Definitions
.OUT
.0 GND
.END
