spice
* Schematic Netlist
VDD 2 0 DC 5
* NMOS Transistors
M1 6 1 3 3 NMOS_MODEL
? Missing component
* Resistors
RD1 2 6 RD
RD2 2 4 RD
* Voltage source connections
V1 1 0 DC 0
* Models
.model NMOS_MODEL NMOS (LEVEL=1 KP=50U VT0=1)
.end
