spice
* NMOS transistor M1
M1 2 3 0 0 NMOS
* PMOS transistor M2
? Missing component
* Voltage source
VDD 4 0 DC 1.8V
* Input voltage
Vin 3 0 DC
* Output node
* Vout is connected to node 2
* Model definitions (assuming default models for simplicity)
.model NMOS NMOS
.model PMOS PMOS
.end
