spice
* Component Definitions
VDD VDD 0 DC 1.8V
* Transistor Definitions
? Missing component
M2 5 3 0 0 NMOS
M3 3 2 4 4 PMOS
M4 5 3 3 3 PMOS
* Node Definitions
* 1: VDD
* 2: Vin
* 3: Common Source, Drain of M1 & M2
* 4: Drain of M3
* 5: Vout
*.model Definitions for NMOS and PMOS
.model NMOS NMOS (Level=1)
.model PMOS PMOS (Level=1)
* End of Netlist
