spice
* SPICE Netlist for the given circuit
* Voltage Source
VDD VDD 0 DC 1.8
* Resistor
RD VDD Vout 1k
* NMOS Transistor
? Missing component
* Model Definition
.model NMOS NMOS
.end
