plaintext
* MOSFET Definitions
M1 2 1 3 3 NMOS
? Missing component
* Voltage Sources
VDD 5 0 DC VDD
* Node Annotations
* 1 = Vin
* 2 = Vout
* 3 = Ground
.end
