spice
* SPICE Netlist for given schematic
* Components
? Missing component
Rout1 4 2 1000
Rs 22 2 10k
ro1 4 2 1k
ro2 5 2 1k
Gm2 5 2 VALUE={1/0.001} ; Modeled as conductance
* Analysis
.op
.end
