plaintext
* PMOS Transistor M1
M1 2 3 2 PMOS W=WL L=L
* PMOS Transistor M2
? Missing component
* Voltage Source VDD
VDD 44 0 DC VDD_value
* Voltage Source VB
VB 2 0 DC VB_value
* Current Source IX
IX 3 0 DC IX_value
* Current Source IY
IY 4 0 DC IY_value
* End of Netlist
