spice
* NMOS transistor
? Missing component
* PMOS transistor
M2 3 5 4 4 PMOS
* Resistors
RD1 3 0 100k
RD2 2 4 100k
* Voltage Source
VDD 2 0 DC 5V
* Additional input sources if needed
Vin 6 0 AC 1V
Vb 5 0 DC 1V
* Analysis commands
.control
run
.endc
